US07576215B2
2-[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]PROPANOIC ACID
Prepared using the procedure in Example 56 except using 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol and 2-(4-Bromomethyl-phenyl)-propionic acid ethyl ester as the halide. MS (ESI) m/z 542.

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | 2-(4-Bromomethyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(C)C1=CC=C(C=C1)CBr)=O | C12H15BrO2
product | 2-[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]PROPANOIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(C=C2)C(C(=O)O)C)C=CC1)C(F)(F)F | C33H26F3NO3
